US06936632B2
a) Benzyl 2-(4-chlorophenyl)-1-phenyl-6,7-dihydro-5H-pyrrolizine-3-carboxylate
6-(4-Chlorophenyl)-7-phenyl-2,3-dihydro-1H-pyrrolizine (Example 17 a, 1.5 g, 5.1 mmol), dissolved in THF (10 ml), is treated with triethylamine (0.7 ml, 0.51 g, 5 mmol). A solution of diphosgene (0.5 g, 2.5 mmol), dissolved in THF (5 ml), is added dropwise to this solution at RT, and it is stirred for 8 h. Benzyl alcohol (abs., 0.52 ml, 0.54 g) and triethylamine (0.7 ml, 0.51 g, 5 mmol) are then added, and the mixture is stirred at RT for a further 48 h. The reaction mixture is partitioned between water (30 ml) and diethyl ether (60 ml), and the ether phase is washed with NaOH (5%, 20 ml). An oily residue is obtained from the THF/ether phase dried using Na2SO4 sicc. after the removal of the solvent in vacuo.

reactant | 6-(4-Chlorophenyl)-7-phenyl-2,3-dihydro-1H-pyrrolizine | ClC1=CC=C(C=C1)C1=CN2CCCC2=C1C1=CC=CC=C1 | C19H16ClN
reactant | triethylamine | 5 mmol, 0.7 ml, 0.51 g | C(C)N(CC)CC | C6H15N
reactant | diphosgene | 2.5 mmol, 0.5 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | Benzyl alcohol | 0.52 ml, 0.54 g | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 5 mmol, 0.7 ml, 0.51 g | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Benzyl 2-(4-chlorophenyl)-1-phenyl-6,7-dihydro-5H-pyrrolizine-3-carboxylate | ClC1=CC=C(C=C1)C=1C(=C2CCCN2C1C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C27H22ClNO2
